US06946489B2
b) 2-Ethylsulfanylbenzeneboronic acid
9.5 g (50 mmol) of triisopropyl borate are added to a solution of 10.9 g (50.0 mmol) of 1-bromo-2-ethylsulfanylbenzene kept at −70° C. 33.3 ml of a 15% solution of BuLi in hexane (55 mmol) are then added. The mixture is stirred at −70° C. for a further 30 minutes, then 1 N hydrochloric acid and ethyl acetate are added. The organic phase is separated off, dried and evaporated. The residue is taken up in diethyl ether and filtered. A colourless solid is obtained; FAB 182

reactant | triisopropyl borate | 50 mmol, 9.5 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-bromo-2-ethylsulfanylbenzene | 50.0 mmol, 10.9 g | BrC1=C(C=CC=C1)SCC | C8H9BrS
reactant | BuLi | [Li]CCCC
reactant | hexane | 55 mmol | CCCCCC | C6H14
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethylsulfanylbenzeneboronic acid | C(C)SC1=C(C=CC=C1)B(O)O | C8H11BO2S
